US03948939
Preparation of 4-Hydroxymethylcyclohexanone ethylene ketal
Ethyl cyclohexanone-4-carboxylate (335 g.), 550 ml. ethylene glycol and 21 g. of p-toluenesulfonic acid in 5.5 liters of benzene were heated at reflux with stirring for 24 hours while water was separated by means of a water trap. The mixture was cooled and poured into 4 liters of ice water. The benzene layer was separated, washed with 1 liter of 5% sodium bicarbonate, 1 liter of water and 1 liter of saturated sodium chloride solution, dried and evaporated to dryness to give, after distillation, 245.6 g. of ethyl cyclohexanone-4-carboxylate ethylene ketal; b.p. 95-99.5°C. (0.07 mm.); N25D 1.4620. A solution of 35 g. of the ketal-ester in 50 ml. of dry tetrahydrofuran was added dropwise to 5.7 g. of lithium aluminum hydride in 250 ml. of dry tetrahydrofuran, and the mixture was heated at reflux for 5 hours and cooled to room temperature. A saturated sodium chloride solution (11.4 ml.) was added dropwise and heating at reflux was continued for one hour. The mixture was cooled and filtered, and the filtrate was dried and evaporated to dryness to give 26.9 g. of 4-hydroxymethylcyclohexanone ethylene ketal as a clear, colorless oil which was used without further purification.

reactant | Ethyl cyclohexanone-4-carboxylate | 335 g | CCOC(=O)C1CCC(=O)CC1 | C9H14O3
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 5.5 liters | C1=CC=CC=C1 | C6H6
product | 4-Hydroxymethylcyclohexanone ethylene ketal | C1COC2(CCC(CC2)CO)O1 | C9H16O3
